US04962103
(2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine (100 mg) was dissolved in 3 ml of dry ethyl acetate. To the solution was added 0.05 ml of trichloroacetyl isocyanate under ice-cooling in a nitrogen stream, followed by stirring at the same temperature for 1 hour. The mixture was diluted with ethyl acetate, washed successively with a saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and distilled to obtain (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-trichloroacetylaminocarbonyloxymethyl-4-acetylthiopyrrolidine.

reactant | (2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine | 100 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CO)C=C1 | C15H18N2O6S
reactant | trichloroacetyl isocyanate | 0.05 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-trichloroacetylaminocarbonyloxymethyl-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)COC(=O)NC(C(Cl)(Cl)Cl)=O)C=C1 | C18H18Cl3N3O8S
